US08633173B2
8-Bromo-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine was prepared from 3-bromo-5-trifluoromethyl-pyridin-2-ylamine, ethoxycarbonylisothiocyanate, and hydroxylamine hydrochloride in a manner analogous to Steps 2a-b. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.24 (s, 1H), 8.08 (s, 1H), 6.62 (bs, 2H). MS=282.9 (MH)+.

reactant | 3-bromo-5-trifluoromethyl-pyridin-2-ylamine | BrC=1C(=NC=C(C1)C(F)(F)F)N | C6H4BrF3N2
reactant | ethoxycarbonylisothiocyanate | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 8-Bromo-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | BrC=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C7H4BrF3N4
